US05780482
A mixture of ethyl 8-chloro-3-ethoxypyrido[2,3-b]-pyrazine-7-carboxylate (2.32 g) and 4-methoxyaniline (1.0 g) in ethanol (40 ml) was boiled under reflux for 1 hour. The mixture was allowed to cool and the solvent removed under reduced pressure. The residue was triturated with hot ethyl acetate and filtered to give a solid which was recrystallised from ethyl acetate to give a solid which was purified by chromatography on silica to give ethyl 3-ethoxy-8-(4-methoxyanilino)pyrido[2,3-b]pyrazine-7-carboxylate sesquihydrochloride hydrate, m.p. 143°-145° C.

reactant | ethyl 8-chloro-3-ethoxypyrido[2,3-b]-pyrazine-7-carboxylate | 2.32 g | ClC1=C(C=NC2=NC(=CN=C21)OCC)C(=O)OCC | C12H12ClN3O3
reactant | 4-methoxyaniline | 1.0 g | COC1=CC=C(N)C=C1 | C7H9NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 3-ethoxy-8-(4-methoxyanilino)pyrido[2,3-b]pyrazine-7-carboxylate sesquihydrochloride hydrate | O.Cl.C(C)OC1=CN=C2C(=N1)N=CC(=C2NC2=CC=C(C=C2)OC)C(=O)OCC.Cl.Cl.C(C)OC(=O)C2=C(C=1C(=NC(=CN1)OCC)N=C2)NC2=CC=C(C=C2)OC.O | InChI=1S/2C19H20N4O4.3ClH.2H2O/c2*1-4-26-15-11-20-17-16(22-12-6-8-13(25-3)9-7-12)14(19(24)27-5-2)10-21-18(17)23-15;;;;;/h2*6-11H,4-5H2,1-3H3,(H,21,22,23);3*1H;2*1H2
